US05064819
A solution of 38 bg of ethyl diethoxymethyl(benzyl)phosphinate in 300 ml of absolute ethanol is treated with 20 g of Raney nickel and the suspension is hydrogenated at 110° C. and 150 bar for 12 hours. After this time the mixture is filtered through celite® and the filtrate is evaporated to dryness. Distillation of the residue in high vacuum gives ethyl diethoxymethyl(cyclohexylmethyl)phosphinate of b.p. 120° (10-2 mbar). 'H-NMR (CDCl3): δ (ppm)=,4.62 (1 H, d, CHP), 4.17 (2 H, m, CH2OP), 3.84+3.69 (2 H, m, 2×CH2OC), 1.88 (3 H, m, CH2P+CH), 1.68 (6 H, m, 3×CH2), 1.30 (13 H, m, 3×CH3 +2×CH2).

reactant | ethyl diethoxymethyl(benzyl)phosphinate | C(C)OC(OCC)P(OCC)(=O)CC1=CC=CC=C1 | C14H23O4P
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Raney nickel | 20 g | [Ni] | Ni
product | ethyl diethoxymethyl(cyclohexylmethyl)phosphinate | C(C)OC(OCC)P(OCC)(=O)CC1CCCCC1 | C14H29O4P
